Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I haven't been doing well"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old woman and current ___ student studying 
psychology who presents with worsening depression and requesting 
treatment. On admission and subsequent evaluations, she reports 
that for the past several months (since ___ when she was 
dismissed from the pharmacy program), she has had depressed 
mood, crying daily (in the middle of class, sometimes while 
spending time with friends), and having difficulty with getting 
out of bed to shower or ___ to class. She notes difficulty with 
concentrating on her coursework and reports spending 10+ hours 
sleeping daily. 
.
She notes a history of depression starting at age ___ with 
continued low mood since that time until now, with acute 
worsening in her mood in the setting of recent dismissal from 
the pharmacology program, conflict with her family in ___ due 
to her major change from pharmacy to psychology, and recent 
suicide of a classmate in ___. She notes that the suicide 
was difficult for her as she recognized that even though that 
classmate appeared happy on the outside, she must have been 
depressed. This made her realize that she needed to get help for 
her depression and after discussion with a friend of hers who 
stated that medications had been helpful for her depression, 
decided to seek treatment. 
.
She endorses suicidal thoughts without plan or intent that have 
been present since she started college that come and ___, but 
have recently increased in frequency. Although she denies she 
would ever hurt herself, she continues to have these thoughts. 
She denies any homicidal ideation or auditory or visual 
hallucinations. She denies any history of manic or hypomanic 
states in the past. 
.
Collateral: 
___, counseling services at ___: ___ Noted 
that patient had filled out PHQ9 that endorsed she had been 
having suicidal thoughts everyday to every other day for the 
past couple of months. Reported that he tried to get her help 
previously, which she had declined, but today presented to 
counseling service requesting to be hospitalized for treatment 
of her worsening depression, stating that she has been 'really 
depressed, not managing my life or work' and needing treatment. 
Believes she has suicidal ideation with intent given her 
expression of not caring about her life and being ready to 
accept her death in the context of severe 
hopelessness/helplessness. In addition, she has endorsed not 
eating much, not going to class and having difficulty with 
maintaining her ADLs."
.
On admission and subsequent interview with treatment team, 
patient states that this semester she has been having worsening 
depression. She reports extreme lethargy, crying episodes, 
hypersomnia, decreased PO intake all in the setting of her 
depression. She felt that her ability to function in her daily 
life was increasingly difficult. Patient reports daily thoughts 
of suicide that began at the beginning of this semester.  Denies 
current SI, and states her most recent thoughts of suicide 
occurred the night prior to admission; recalled thinking that if 
she does receive treatment that her life would be the same and 
meaningless. Patient reports feeling safe on the unit at this 
time and is able to tell staff if she feels unsafe. Patient 
currently endorses depressed mood, anhedonia, decreased 
appetite, hypersomnia, fatigue/loss of energy, 
worthlessness/guilt, diminished concentration, hopelessness, and 
recurrent thoughts of death.  Patient is motivated to work with 
her treatment team and states her goal is to prevent herself 
from crying. 
 
Past Medical History:
Past psychiatric history absent for any prior hospitalizations, 
suicide attempts, self-injurious behavior, medication trials, or 
outpatient providers. As above, spoke with therapist at ___ 
once in ___ and prior to admission.
.
Past medical history absent for any acute/chronic conditions.
.
Allergies: NKDA

 
Social History:
Substance use history absent for problematic alcohol, tobacco, 
or illicit substance use.
.
Forensic history absent for previous arrests, incarcerations, or 
current charges.
.
- B/R: ___, only child, came to ___ in ___ grade and stayed 
with a host family during high school (in ___ parents 
live in ___
- Family: Mother and father (in ___, no sibling
- Relationship status: Single, no children
- Primary supports: close friend from ___ that she speaks 
with daily
- Housing: lives with a roommate who is a freshman in the 
___ program at ___
- Education: second year at ___ currently studying psychology; 
recently dismissed from pharmacy
- Employment/income: parental support
- Spiritual: Denies
 
Family History:
Family psychiatric history absent for any known psychiatric 
hospitalizations or completed suicides.
 
Physical Exam:
Vital Signs:
T: 97.7, HR: 87, BP: 114/82, RR: 16, 100%RA
.
GENERAL
- HEENT: normocephalic, atraumatic, moist mucous membranes, 
oropharynx clear, supple neck, no scleral icterus
- Cardiovascular:regular rate and rhythm, S1/S2 heard, no 
murmurs/rubs/gallops, distal pulses intact
- Pulmonary: lungs clear to auscultation bilaterally, no 
wheezes/rhonchi/rales, no increased work of breathing
- Abdominal: soft, non-distended, bowel sounds normoactive, no 
TTP in all quadrants, no guarding, no rebound tenderness
- Extremities: warm and well-perfused, no edema of the limbs
- Skin: no rashes or lesions noted
.
NEUROLOGICAL
- Cranial Nerves:
     - I: olfaction not tested
     - II: PERRL 3 to 2 mm, both directly and consentually; 
brisk bilaterally, VFF to confrontation
     - III, IV, VI: EOMI without nystagmus
     - V: facial sensation intact to light touch in all 
distributions
     - VII: no facial droop, facial musculature symmetric and 
___ strength in upper and lower distributions, bilaterally
     - VIII: hearing intact to finger rub bilaterally
     - IX, X: palate elevates symmetrically
     - XI: ___ strength in trapezii and SCM bilaterally
     - XII: tongue protrudes in midline
- Motor: 
     - normal bulk and tone bilaterally
     - no abnormal movements, no tremor
     - strength ___ throughout
- Sensory: no deficits to fine touch throughout
- DTRs: 2 and symmetrical throughout
- Coordination: normal on finger to nose test, no intention 
tremor noted
- Gait: good initiation, narrow-based, normal stride and arm 
swing
.
COGNITION 
- Wakefulness/alertness: awake and alert
- Attention: MOYb with 0 errors
- Orientation: oriented to person, time, place, situation
- Executive function ___, Luria, trails, FAS): not tested
- Memory: 
     - ___ registration
     - ___ spontaneous recall after 5 minutes with ___ after 
multiple choice
     - long-term grossly intact
- Fund of knowledge: 
     - consistent with education
     - intact to last 3 presidents: "___, ___, ___ 
- Calculations: 
     - $1.75 = "7 quarters"
- Abstraction: 
     - "Don't judge a book by its cover" = "Don't look at the 
face"
     - bicycle/train: "transportation" 
- Visuospatial: not assessed
- Language: non-native ___ speaker (first language is 
___, no paraphasic errors, appropriate to conversation
.
MENTAL STATUS:
- Appearance: no acute distress, Asian female appearing younger 
than stated age, adequate hygiene and grooming, wearing hospital 
gown, long brown hair, long fingernails with sparkles
- Behavior: calm, forthcoming, no psychomotor agitation or 
retardation, appropriate eye contact
-Mood: "depressed"
- Affect: mood-congruent, dysthymic
- Speech: normal rate, soft volume, and normal prosody
- Thought process: linear, coherent, goal-oriented, no loose 
associations
- Thought Content: endorsing SI without plan, denies HI, no 
evidence of paranoia, denies AVH, not appearing to be attending 
to internal stimuli
- Judgment and Insight: Limited/Fair
 
Pertinent Results:
___ 01:53PM BLOOD Glucose: 87 UreaN: 10 Creat: 0.6 Na: 142
K: 4.0 Cl: 106 HCO3: 22 AnGap: 14 
___ 01:53PM BLOOD WBC: 6.4 RBC: 4.69 Hgb: 13.7 Hct: 41.0
MCV: 87 MCH: 29.2 MCHC: 33.4 RDW: 12.7 RDWSD: 40.___ 
___ 07:02AM BLOOD %HbA1c: 5.1 eAG: 100 
___ 07:02AM BLOOD Cholest: 152 Triglyc: 46 HDL: 57 CHOL/HD:
2.7 LDLcalc: ___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout her admission. They were also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.
.
2. PSYCHIATRIC:
#) Major Depressive Disorder, Unspecified - On admission 
interview, the patient endorsed daily SI without plan with 
accompanying depressive symptoms including depressed mood, 
anhedonia, decreased appetite, hypersomnia, fatigue/loss of 
energy, worthlessness/guilt, diminished concentration, 
hopelessness, and recurrent thoughts of death. She appeared 
motivated to work with her treatment team. MSE was notable for 
Asian female appearing younger than stated age, who is calm and 
cooperative. She described her mood as depressed and had a 
mood-congruent and dysthymic affect. Though she had fair 
judgment, patient had fair insight at this time. Presentation 
appeared most consistent with MDD, but also considered 
Adjustment Disorder with Depressed Features. Patient was in 
agreement with, consented to, and tolerated initiation of 
Bupropion for depressive symptoms. Discharged on bupropion XL 
300mg daily; discussed possibility of increasing dose if 
necessary. On day of discharge patient exhibited mood congruent 
euthymic affect, voiced future oriented thought content and 
denied ongoing suicidal ideation. Verbalized her intent to 
follow up with outpatient treatment.
.
3. MEDICAL
#) No acute/chronic medical issues - labs within normal limits. 
.
4. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. Patient did not exhibit any 
unsafe behavior while admitted. 
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Patient provided permission to speak with ___, ___ 
Clinical Case ___, ___ Student Affairs ___ 
___, who had seen patient twice in clinic and indicated 
his willingness to follow up with patient after discharge.
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
expressed suicidal ideation. Their static factors noted at that 
time include single marital status. The modifiable risk factors 
were also addressed at that time, including lack of outpatient 
providers (was referred to psychiatric prescriber to continue 
antidepressant medication).  Finally, the patient is being 
discharged with many protective risk factors, including future 
oriented thought content, willingness to follow up with 
outpatient providers, willingness to continue antidepressant 
medication, and lack of ongoing suicidal ideation or 
thoughts/urges to engage in self-harm. Patient also demonstrated 
preserved capacity to engage in a meaningful conversation about 
safety planning and what she would do if thoughts of suicide 
returned (e.g. patient would contact student health services, 
call ___, or come to the emergency department). Overall, at time 
of discharge, patient no longer required acute inpatient 
admission for decompensated symptoms of mental illness.
 
Medications on Admission:
None
 
Discharge Medications:
1.  BuPROPion XL (Once Daily) 300 mg PO DAILY 
RX *bupropion HCl 300 mg 1 tablet(s) by mouth daily Disp #*14 
Tablet Refills:*1 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or ___ to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___